US07635715B2
Step D: Preparation of Ethyl 4-hydroxy-6-methoxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate
Diethyl 2-(4-(4-methoxyphenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate (2.2 g) in 1 mL IPAc was added to 20 mL of concentrated H2SO4, and the resulting mixture was stirred at room temperature for 2 hours, M+1=333, M−1=331. The mixture was then poured into 200 g of ice. The mixture was extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine (20 mL), dried over anhydrous Na2SO4, concentrated in vacuo, and purified by column chromatography eluting with 10-50% EtOAc/hexane to give 0.66 g of the title product as a yellow oil. MS (m/z)=333 (M+H)+.

reactant | Diethyl 2-(4-(4-methoxyphenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate | 2.2 g | COC1=CC=C(C=C1)C1(CCOCC1)C(=O)C(C(=O)OCC)C(=O)OCC | C20H26O7
solvent | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
product | Ethyl 4-hydroxy-6-methoxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 0.66 g | OC1=C(C(C2(CCOCC2)C2=CC=C(C=C12)OC)=O)C(=O)OCC | C18H20O6
